US04384126
Dry celite (30 g) and 6,6-ethylenedioxy-2-(4'-hydroxypentyl)-2-methyloxepane (3.3 g, 0.0128 mol) in methylene chloride (50 ml) are added to a pyridine-chromium trioxide solution [prepared from pyridine (12.1 g, 0.153 mol) and chromium trioxide (7.67 g, 0.0767 mol)] in distilled methylene chloride (450 ml) at 10° C. in a nitrogen atmosphere. After 5 hours the mixture is filtered and the celite cake is washed with methylene chloride (10×50 ml). The solvent is removed at reduced pressure. The residue is diluted with ether (150 ml), filtered and the solvent is removed at reduced pressure. The crude product (3.3 g) is chromatographed on SilicAR CC-7 (60 g)in hexane. Elution with 12% ethyl acetate/hexane gives 6,6-ethylenedioxy-2-methyl-2-(4'-oxopentyl)-oxepane as a clear colorless oil (2.1 g, 64%).

reactant | 6,6-ethylenedioxy-2-(4'-hydroxypentyl)-2-methyloxepane | 0.0128 mol, 3.3 g | C1OC2(CCCC(OC2)(C)CCCC(C)O)OC1 | C14H26O4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
catalyst | pyridine chromium trioxide | 0.153 mol, 12.1 g | N1=CC=CC=C1.[O-2].[O-2].[O-2].[Cr+6]
product | 6,6-ethylenedioxy-2-methyl-2-(4'-oxopentyl)-oxepane | 2.1 g, 64% | C1OC2(CCCC(OC2)(CCCC(C)=O)C)OC1 | C14H24O4
